* Schematics Netlist *



V_U_0         $N_0001 $N_0002 DC 10  
X_U3         $N_0003 $N_0004 Sw_tClose PARAMS: tClose=4ms ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U1         0 $N_0003 Sw_tClose PARAMS: tClose=4ms ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U2         0 $N_0002 Sw_tOpen PARAMS: tOpen=4ms ttran=1u Rclosed=0.01
+  Ropen=1Meg
L_L         $N_0005 0  100mH IC=50mA 
R_R2         $N_0004 $N_0005  200  
R_R1         $N_0001 $N_0005  50  
R_R3         $N_0006 $N_0005  100  
C_C         $N_0003 $N_0006  10u IC=25V 
